US07807672B2
Preparation of 1-benzyl-3-fluoromethyl-pyrrolidine-3-carboxylic acid ethyl ester
N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (548 μl, 2.14 mmol) was dissolved in the dichloromethane solution of the 2-fluoromethyl-acrylic acid ethyl ester from the previous reaction and chilled to 0 C. A solution of trifluoroacetic acid (67 μl, 0.87 mmol) in dichloromethane (0.5 ml) was added slowly. The reaction mixture was allowed to warm to room temperature in two hours and directly chromatographed on silica gel. Elution with solutions of ethyl acetate in hexanes (1:5, 1:4, 1:3) obtained the title product (143 mg) as oil.

reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 2.14 mmol, 548 μl | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 0.87 mmol, 67 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-fluoromethyl-acrylic acid ethyl ester | C(C)OC(C(=C)CF)=O | C6H9FO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 1-benzyl-3-fluoromethyl-pyrrolidine-3-carboxylic acid ethyl ester | 143 mg | C(C)OC(=O)C1(CN(CC1)CC1=CC=CC=C1)CF | C15H20FNO2
